2112-09-25 07:27:00 Physician Resident Progress Note
Chief Complaint: 46-year-old cambodian speaking female who presents s/p
   elective drainage for a moderate to large size pericardial effusion
   noted on echocardiogram after patient was worked up for 1 month of
   intermittent palpitation episodes and worsening shortness of breath
   with exertion. She had no signs or symptoms of overt tamponade and is
   otherwise stable. Draining bloody pericardial fluid.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2112-9-24**] 08:57 AM
   Allergies:
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-9-24**] 08:00 AM
   Other medications:
   OxycoDONE (Immediate Release)  5-10 mg PO Q6H:PRN pain
   Acetaminophen 500 mg PO Q6H
   Insulin SC  (per Insulin Flowsheet)
   Metoprolol Succinate XL 100 mg PO Morphine Sulfate 2-4 mg IV Q4H:PRN
   Ondansetron 4 mg IV Q8H:PRN nausea
   Benztropine Mesylate 1 mg PO QHS
   Sulfameth/Trimethoprim SS 1 TAB PO DAILY
    Risperidone 3 mg PO DAILY
   Amlodipine 5 mg PO DAILY
   Sirolimus 2 mg PO DAILY
   Mycophenolate Mofetil 500 mg PO BID
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-9-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.3
   HR: 71 (69 - 84) bpm
   BP: 120/59(75) {89/46(59) - 130/71(83)} mmHg
   RR: 12 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    223 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    550 mL
   Urine:
                                                                  1,450 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                 -1,477 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   9.9 g/dL
   222 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   25 mg/dL
   105 mEq/L
   137 mEq/L
   30.2 %
   7.5 K/uL
        [image002.jpg]
                            [**2112-9-23**]  04:53 PM
                            [**2112-9-24**]  05:26 AM
                            [**2112-9-24**]  06:05 PM
   WBC
   7.8
   7.5
   Hct
   31.5
   28.7
   30.2
   Plt
   181
   175
   Cr
   1.5
   1.7
   Glucose
   107
   222
   Other labs: PT / PTT / INR:12.5/21.5/1.1, ALT / AST:58/46, Alk Phos / T
   Bili:96/0.3, Differential-Neuts:88.0 %, Lymph:6.9 %, Mono:4.4 %,
   Eos:0.5 %, Albumin:4.2 g/dL, LDH:225 IU/L, Ca++:9.3 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   In summary, the patient is a 46-year-old cambodian speaking female who
   presents s/p elective drainage for a moderate to large size pericardial
   effusion noted on echocardiogram after patient was worked up for 1
   month of intermittent palpitation episodes and worsening shortness of
   breath with exertion. She had no signs or symptoms of overt tamponade
   and is otherwise stable.
   .
   #Pericardial Effusion: patient underwent elective pericardial drainage
   earlier this afternoon and has drain in place currently with 600cc+
   sanguinous fluid removed. Lab data c/w hemopericardium. Underlying
   etiology of effusion is unclear, but could be due to malignancy, TB,
   fungal infections, viral infections, lyme disease, a collagen vascular
   disease, or drug effects (case reports of either Cellcept or Rapamune)
   or idiopathic.
   - will monitor with telemetry
   - measure overnight output from pericardial drainage, once tapers and
   stops draining will consider removal
   - follow-up cytology, gram stain, culture, thyroid and SLE tests
   (dsDNA, complement) &  anti-thyroglobulin Ab
   - repeat ECHO in a.m.
   - CXR in a.m.
   - EKG in a.m.
   - serial pulsus checks q8 hrs
   .
   #Bradycardia - patient had brief episode of bradycardia with
   hypotension immediately post-procedure after drainage which was
   attributed to a vagal reaction. Patient stabilized smoothly after 1mg
   Atropine given. Stable since CCU arrival with HR 70-80s, SBPs 105-130s
   range.
   .
   #Renal Transplant: status post renal transplant [**11-18**] for IgA
   nephropathy related renal failure. Current Cr 1.4 which is patient's
   baseline. Appreciate renal team's recommendations and will continue
   CellCept at 500mg PO BID and Rapamycin mg/day.
   - Continue Calcium & Vitamin D supplement
   - CBC/Chem7
   - check Sirolimus level in a.m.
   .
   # Hypertension: will plan to continue Amlodipine 5mg and Toprol 100mg
   with hold parameters for SBP < 105 given recent bout of hypotension
   post-drainage.
   .
   #Bipolar disorder: Continue daily Benztropine & Risperidal therapy
   .
   # FEN: will resume regular diet, replete electrolytes PRN
   PPx: Heparin SQ for DVT PPx
   Code: Full Code
   Access: PIV
   Comunication: with daughter, [**Name (NI) 1702**] [**Name (NI) **] - cell: [**Telephone/Fax (1) 1703**]
   Dispo: CCU observation and management while recovers from pericardial
   drainage
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-9-23**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: